US04125622
Into a mixture consisting of 10 g of maleic acid anhydride, 8.5 g of 2-hydroxy-2-methylheptane-1-thiol and 105 ml of methylene chloride, 1 ml of diisopropylamine, dissolved in 5 ml of methylene chloride is dropped. During this step the temperature is maintained at equal to or less than 30°. An additional 8.5 g of 2-hydroxy-2-methylheptane-1-thiol, dissolved in 5 ml of methylene chloride is added. After 15 minutes the usual work-up is performed. (Usual working up refers to the following procedure throughout the examples: washing of the organic phase with 1% aqueous sulphuric acid and with water; drying of the organic phase over MgSO4 ; distilling off the solvent; and chromatographic purification of the residue on silica gel with chloroform or ether:petroleum ether = 2:8 as elution agent.) 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid is obtained: NMR: 3.88 (q), 1.54 (s), 0.9 (t).

reactant | maleic acid anhydride | 10 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 2-hydroxy-2-methylheptane-1-thiol | 8.5 g | OC(CS)(CCCCC)C | C8H18OS
reactant | diisopropylamine | 1 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-hydroxy-2-methylheptane-1-thiol | 8.5 g | OC(CS)(CCCCC)C | C8H18OS
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 105 ml | C(Cl)Cl | CH2Cl2
product | 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid | C(CCCC)C1(CSC(C(O1)=O)CC(=O)O)C | C12H20O4S
